US06218390B1
To a solution of 2-amino-2-(3,4-difluorophenyl)-ethanol 2.6 g, 15.0 mmol) in CH2Cl2 (15 mL) and 20% (by wt.) NaOH (15 mL) was added a solution of chloroacetyl chloride (1.32 mL, 16.5 mmol) in 15 mL of CH2Cl2 at −10° C. dropwise under argon atmosphere. After the addition was complete, the reaction mixture was stirred for 15 min and then it was transferred to a separatory funnel. The organic layer was separated and the aqueous layer was extracted with CH2Cl2 (2×20 mL). The combined organic extracts were washed with a solution containing 10 mL of brine and 5 drops of concentrated HCl. The organic layer was dried over MgSO4, filtered and the solvent was removed in vacuo to give a white solid. It was further purified with flash column chromatography on silica gel with 1:1 hexane/EtOAc followed by EtOAc as the eluting system. 2-Chloro-N-[1-(3,4-difluorophenyl)-2-hydroxy-ethyl]-acetamide was obtained as a white solid (2.6 g, 69.5% yield).

reactant | 2-amino-2-(3,4-difluorophenyl)-ethanol | 15.0 mmol, 2.6 g | NC(CO)C1=CC(=C(C=C1)F)F | C8H9F2NO
reactant | NaOH | 15 mL | [OH-].[Na+]
reactant | chloroacetyl chloride | 16.5 mmol, 1.32 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 2-Chloro-N-[1-(3,4-difluorophenyl)-2-hydroxy-ethyl]-acetamide | ClCC(=O)NC(CO)C1=CC(=C(C=C1)F)F | C10H10ClF2NO2
